Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base / Morphine
 
Attending: ___.
 
Chief Complaint:
C6 da-EPOCH level 1
 
Major Surgical or Invasive Procedure:
PICC placement and removal prior to d/c

 
History of Present Illness:
___ male dx with high-grade B-cell lymphoma in ___. The patient noted a R chest wall mass in ___, CT
showed a mass 4.5x7.2x10.9cm mass arising from R serratus
anterior muscle. This mass was biopsied on ___. PET/CT
revealed extensive disease, including bilateral axilla,
mediastinum, porta hepatis, L pelvic sidewall, liver, R adrenal,
T11, L1, L4, prostate.

As part of the workup prior to receiving rituxan, he was tested
for HIV, hepatitis B, and hepatitis C. HIV was positive, and he
has a log10 vL of 5.06. CD4 is 280. Hepatitis B sAb is positive.
He was started on HAART on ___, and follows with Dr ___.

He is here for his sixth cycle of chemotherapy with da-EPOCH-R.
He had IT MTX prior to admission on ___.

 
Past Medical History:
Past Medical History:
Past Hematologic History:
high-grade B cell lymphoma dx ___, stage IV
C1 EPOCH-R dose level 1 ___ with IT MTX
C2 EPOCH-R dose level 1 ___ with IT MTX
C3 EPOCH-R dose level 1 ___ with IT MTX

PMH:
HIV dx ___
Hepatitis B sAb pos
CORONARY ARTERY DISEASE                                         
DEPRESSION                                                      
Type 2 DM                                             
HYPERLIPIDEMIA                                                  
PSORIASIS
H/O GASTROESOPHAGEAL REFLUX 
SCC/BCC  
Burkitt's-like high grade B cell lymphoma as above

 
Social History:
___
Family History:
Mother deceased at ___ from APL. 
Father is alive at ___ with coronary artery disease.  He has no
full siblings.  He is of ___ and ___ descent.

 
Physical Exam:
GEN:  NAD
VS:  T 97.4 BP 116/62 HR 67 RR 20 P2 99%
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV:  Regular, normal S1 and S2 no S3, S4, or murmurs
PULM:  Clear to auscultation bilaterally
ABD:  BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS:  +2 pitting edema b/l-consistent
SKIN:  No rashes or skin breakdown, chronic dry skin
NEURO:  Grossly nonfocal, alert and oriented 

 
Pertinent Results:
___ 12:00AM BLOOD WBC-1.7* RBC-2.68* Hgb-8.0* Hct-23.8* 
MCV-89 MCH-29.9 MCHC-33.7 RDW-18.1* Plt ___
___ 12:00PM BLOOD WBC-6.1# RBC-2.57* Hgb-7.9* Hct-23.7* 
MCV-92 MCH-30.9 MCHC-33.6 RDW-19.5* Plt ___
___ 12:00AM BLOOD Neuts-88.4* Lymphs-8.2* Monos-1.4* 
Eos-1.8 Baso-0.1
___ 12:00PM BLOOD Neuts-79* Bands-0 Lymphs-8* Monos-7 Eos-0 
Baso-0 ___ Metas-4* Myelos-2* NRBC-4*
___ 12:00AM BLOOD Glucose-201* UreaN-23* Creat-0.5 Na-132* 
K-3.6 Cl-97 HCO3-23 AnGap-16
___ 12:00PM BLOOD UreaN-9 Creat-0.8 Na-136 K-4.2 Cl-100 
HCO3-26 AnGap-14
___ 12:00AM BLOOD ALT-21 AST-16 LD(LDH)-173 AlkPhos-89 
TotBili-0.3
___ 12:00PM BLOOD ALT-16 AST-22 LD(LDH)-216 AlkPhos-122 
TotBili-0.3
___ 12:00AM BLOOD Albumin-3.7 Calcium-8.5 Phos-3.2 Mg-2.1
___ 12:00PM BLOOD Calcium-9.0 Phos-3.7 Mg-1.___ year old male with HIV associated Burkitt's like DLBCL, GC
type, admitted for cycle 5 of da-EPOCH-R, dose level 1. PET/CT 
prior to first cycle shows extensive involvement in axilla, 
mediastinum, porta hepatis, L pelvic sidewall, liver, R adrenal,
T11, L1, L4, prostate. PET CT prior to ___ cycles shows CR,
repeat PET prior to ___ cycle shows no new FDG avid areas.

C6D6

# HIV assoc DLBCL: chemotherapy as follows (dose level 1).  
- Etoposide D1-4 
- Doxorubicin D1-4
- Vincristine D1-4 
- Cyclophosphamide D5. 
- Rixuan will be given in clinic outpatient on ___
- IT Ara-C (has had 6 doses IT MTX) done prior to admit ___
- neupogen to start at home D6

#Anemia: secondary to marrow suppression s/p 6C of chemo.
- 1 unit RBCs ___

# FVO: continue compression stocking and monitor. strict I/Os,
diurese prn

# HIV:
- genotyping: wild type, no R' pattern
- Truvada (2 NRTI) and dolutegravir (integrase inhibitor) 
started ___ with improvement in vL, repeat testing stable
- f/u with Dr ___

# hep B surface Ab positivity: 
- Truvada should provide adequate coverage per Dr ___

# hypertensive heart disease without heart failure or evidence 
of CKD.  CAD PTCA in ___ and ___. 
-holding ASA 
-Continue HCTZ, CCB, ACEI (now at lower dose) with parameters. 
-PRN TNG, has not used in the past
-Stress testing last performed in ___.
-hold hyperlipidemia agents while admitted

# CAD s/p PTCA ___ & ___: see above

# DM type 2 without known target organ damage:
-resume metformin/glipizide at home
-A1C is at goal at 6.9%
-SSI inhouse, ___ if needed

# anxiety: on buspar, prn trazodone for sleep

# psoriasis: not currently using home topical regimens, held
inpatient per patients preference.

# GERD: remains on ppi. 

# L2 compression fracture: continue tylenol, heat, lidoderm

# nausea: Supportive antiemetics with Prednisone D 1,2,3,4,5,
prochlorperazine, ativan and ondansetron

# peripheral neuropathy: given the risk of constipation with
vincristine, will schedule bowel regimen. 

# DVT prophylaxis: heparin
# Prophylaxis: acyclovir and bactrim, start cipro at home 

# F/E/N: prn electrolytes. drinking well, IVF per protocol.

# Access: L PICC
# code status: Full
# dispo: home post chemo

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Atorvastatin 10 mg PO QPM 
3. BusPIRone 5 mg PO TID 
4. Ciprofloxacin HCl 500 mg PO Q12H 
5. Cyclobenzaprine 5 mg PO TID:PRN muscle spasms 
6. Dolutegravir 50 mg PO DAILY 
7. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
8. fenofibrate 150 mg oral daily 
9. Filgrastim 480 mcg SC Q24H 
10. Fluocinonide 0.05% Ointment 1 Appl TP BID:PRN skin 
irritation 
11. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN 
allergies/congestion 
12. GlipiZIDE 5 mg PO QAM 
13. Hydrochlorothiazide 25 mg PO DAILY 
14. HydrOXYzine 25 mg PO Q6H:PRN pruritus 
15. Lisinopril 5 mg PO DAILY 
16. Lorazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 
17. MetFORMIN (Glucophage) 500 mg PO TID 
18. Nitroglycerin SL 0.4 mg SL PRN CP 
19. Omeprazole 20 mg PO DAILY 
20. Ondansetron 8 mg PO Q8H:PRN nausea 
21. Potassium Chloride 10 mEq PO BID 
22. Prochlorperazine 10 mg PO Q6H:PRN nausea 
23. Viagra (sildenafil) 100 mg oral prn 
24. Phosphorus 250 mg PO BID 
25. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
26. TraZODone 25 mg PO QHS:PRN insomnia 
27. Verapamil SR 240 mg PO Q24H 
28. Calcium Carbonate 500 mg PO BID 
29. Vitamin D 400 UNIT PO DAILY 
30. Cyanocobalamin 250 mcg PO DAILY 
31. Docusate Sodium 100 mg PO BID 
32. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
33. Senna 8.6 mg PO BID 
34. Simethicone 40-80 mg PO QID:PRN flatulence 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. BusPIRone 5 mg PO TID 
3. Cyanocobalamin 250 mcg PO DAILY 
4. Cyclobenzaprine 5 mg PO TID:PRN muscle spasms 
5. Docusate Sodium 100 mg PO BID 
6. Dolutegravir 50 mg PO DAILY 
7. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
8. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN 
allergies/congestion 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. Lisinopril 5 mg PO DAILY 
11. Lorazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia 
12. Omeprazole 20 mg PO DAILY 
13. Phosphorus 250 mg PO BID 
14. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
15. Potassium Chloride 10 mEq PO BID 
Hold for K >5 
16. Prochlorperazine 10 mg PO Q6H:PRN nausea 
17. Senna 8.6 mg PO BID 
18. Simethicone 40-80 mg PO QID:PRN flatulence 
19. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
20. TraZODone 25 mg PO QHS:PRN insomnia 
21. Vitamin D 400 UNIT PO DAILY 
22. Atorvastatin 10 mg PO QPM 
23. Calcium Carbonate 500 mg PO BID 
24. Ciprofloxacin HCl 500 mg PO Q12H 
25. fenofibrate 150 mg oral daily 
26. Filgrastim 480 mcg SC Q24H 
27. Fluocinonide 0.05% Ointment 1 Appl TP BID:PRN skin 
irritation 
28. GlipiZIDE 5 mg PO QAM 
29. HydrOXYzine 25 mg PO Q6H:PRN pruritus 
30. MetFORMIN (Glucophage) 500 mg PO TID 
31. Nitroglycerin SL 0.4 mg SL PRN CP 
32. Ondansetron 8 mg PO Q8H:PRN nausea 
33. Verapamil SR 240 mg PO Q24H 
34. Viagra (sildenafil) 100 mg ORAL PRN ED 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___:

You were admitted to receive chemotherapy for your lymphoma. You 
tolerated this very well. 
 
You gained fluid weight due to the chemotherapy, which improved 
with 
additional lasix.  

You will inject neupogen daily starting ___, continue until 
you are told to stop. 

You will continue to take medications to prevent infection: 
acyclovir, bactrim. You will restart ciprofloxacin as well while 
your blood counts are low. 

Your nausea medications are as follows:
1 zofran
2 ativan
3 compazine

Please continue to take colace and senna for the next two weeks 
as ordered. If your stools become frequent, you may decrease the 
senna to once daily. If you become constipated despite the 
colace/senna, please purchase miralax over the counter and use 
this daily. If you remain constipated despite these medications, 
please call us.

Please drink enough fluids so that your urine is close to clear 
(this is usually between 48-64 oz of fluid per day).

You will follow up in the outpatient clinic as stated below. 
Please do not hesitate to call in the meantime with any 
questions or concerns.

 
Followup Instructions:
___